US04978663
N-[1-(1,6-Dihydro-6-oxo-3-pyridinyl)cyclohexyl]benzamide
A solution of N-[1-[6-(benzoyloxy)-3-pyridinyl]cyclohexyl]benzamide hydrochloride (10.4 g) was heated in 75 ml of refluxing methanol for 1 hour. The solution was cooled, and the solvent was removed in vacuo. The residual oil was triturated with a mixture of ethyl acetate and hexanes, affording 5.9 g of crude product as a solid. Recrystallization from isopropyl alcohol gave 1.91 g of a flocculent solid, m.p. 223°-224° C.

reactant | N-[1-[6-(benzoyloxy)-3-pyridinyl]cyclohexyl]benzamide hydrochloride | 10.4 g | Cl.C(C1=CC=CC=C1)(=O)OC1=CC=C(C=N1)C1(CCCCC1)NC(C1=CC=CC=C1)=O
solvent | methanol | 75 ml | CO | CH4O
product | N-[1-(1,6-Dihydro-6-oxo-3-pyridinyl)cyclohexyl]benzamide | 1.91 g | O=C1C=CC(=CN1)C1(CCCCC1)NC(C1=CC=CC=C1)=O | C18H20N2O2
